.SUBCKT gf180mcu_fd_sc_mcu9t5v0__nand3_1 A1 A2 A3 ZN VDD VSS
*.PININFO A1:I A2:I A3:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!((A1 * A2) * A3)
M_i_2 net_1 A3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1 net_0 A2 net_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0 ZN A1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5 ZN A3 VDD VDD pmos_6p0 W=1.460000U L=0.500000U
M_i_4 VDD A2 ZN VDD pmos_6p0 W=1.460000U L=0.500000U
M_i_3 ZN A1 VDD VDD pmos_6p0 W=1.460000U L=0.500000U
.ENDS
